US05189042
17-Ethyl-20-fluoro-1-hydroxy-12-[2'-[3"-(2"'-nitrobenzenesulfonyloxy)-4"-hydroxycyclohexyl]-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (B)
To a solution of 17-ethyl-20-fluoro-1-hydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (200 mg) in dry methylene chloride (20 ml) is added diisopropylethylamine (150 μl) followed by 2-nitrobenzenesulonyl chloride (60 mg), then 4-dimethylaminopyridine (27 mg). The solution is stirred at room temperature under nitrogen atmosphere for 4 h, then quenched with sat'd aqueous sodium bicarbonate solution. The organic layer is washed (water, sat'd NaHCO3, sat'd NaCl), dried (anhydrous Na2SO4) and the solvent is removed in vacuo. Chromatography on silica gel gives the title compounds.

reactant | 17-ethyl-20-fluoro-1-hydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 200 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)O)C)C)=O | C42H66FNO11
reactant | diisopropylethylamine | 150 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-nitrobenzenesulonyl chloride | 60 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 27 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 17-Ethyl-20-fluoro-1-hydroxy-12-[2'-[3"-(2"'-nitrobenzenesulfonyloxy)-4"-hydroxycyclohexyl]-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OS(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])C)C)=O | C48H69FN2O15S
